US04233309
Phenylthioethylamine (5.00 g, 32.68 mmoles) prepared by reacting thiophenol and β-bromoethylamine hydrobromide in the presence of triethylamine and 3.74 g (32.68 mmoles) of acetonylacetone were heated under reflux for 4 hours in 80 ml of acetic acid. The acetic acid was distilled off under reduced pressure, and toluene was added to the residue. The mixture was distilled under reduced pressure. The resulting crude product was chromatographed on a column of silica gel using hexane/benzene as an eluent to afford 2,5-dimethylpyrrol-1-yl-ethyl phenyl sulfide (5.32 g, 22.88 mmoles, 70%).

reactant | Phenylthioethylamine | 32.68 mmoles, 5.00 g | C1(=CC=CC=C1)SCCN | C8H11NS
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | β-bromoethylamine hydrobromide | Br.BrCCN
reactant | acetonylacetone | 32.68 mmoles, 3.74 g | C(C(=O)C)CC(C)=O | C6H10O2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,5-dimethylpyrrol-1-yl-ethyl phenyl sulfide | 22.88 mmoles, 5.32 g, 70% | C1(=CC=CC=C1)SCCN1C(=CC=C1C)C | C14H17NS
